US05753664
2-[4-(4-Acetoxybenzoyl)benzylthio]-3-methylthieno-[3,2-d]pyrimidin-4(3H)-one
To a solution of 2-mercapto-3-methylthieno[3,2-d]-pyrimidin-4(3H)-one (1.98 g) and 1N-sodium hydroxide/water (10 ml) in ethanol (30 ml) was added 4-(4-acetoxybenzoyl)benzyl bromide (3.95 g) and the mixture was stirred at 60° C. for 1 hour. This reaction mixture was poured in water and the resulting crystals were collected by filtration, rinsed with water, and recrystallized from ethyl acetate to provide the title compound as colorless solid (3.87 g).

reactant | 2-mercapto-3-methylthieno[3,2-d]-pyrimidin-4(3H)-one | 1.98 g | SC=1N(C(C2=C(N1)C=CS2)=O)C | C7H6N2OS2
reactant | sodium hydroxide water | 10 ml | [OH-].[Na+].O
reactant | 4-(4-acetoxybenzoyl)benzyl bromide | 3.95 g | C(C)(=O)OC1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C16H13BrO3
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-[4-(4-Acetoxybenzoyl)benzylthio]-3-methylthieno-[3,2-d]pyrimidin-4(3H)-one | 3.87 g | C(C)(=O)OC1=CC=C(C(=O)C2=CC=C(CSC=3N(C(C4=C(N3)C=CS4)=O)C)C=C2)C=C1 | C23H18N2O4S2
